US08664214B2
(4-(benzylamino)pyridin-3-yl)methanol
Starting from 4-(benzylamino)nicotinic acid using 4 eq of LiAlH4 yielded the title compound. ESI-MS [M+H]+=215.1.

reactant | 4-(benzylamino)nicotinic acid | 4 eq | C(C1=CC=CC=C1)NC1=CC=NC=C1C(=O)O | C13H12N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | (4-(benzylamino)pyridin-3-yl)methanol | C(C1=CC=CC=C1)NC1=C(C=NC=C1)CO | C13H14N2O
